US05504107
3,6,9-Pentadecatriyn-1-ol.
In a 1 L three-necked, flame-dried round. bottom flask fitted with a reflux condenser and a rubber septum was placed 3.86 g (159 mmol) of magnesium in 250 mL of anhydrous tetrahydrofuran. Bromoethane (17.3 g; 1586 mmol) in 250 mL anhydrous tetrahydrofuran was added dropwise, under argon, and the reflux rate was controlled with the aid of an ice-water bath. The mixture was heated to reflux and stirred for 1 hour. 3-Butyn-1-ol (5.56 g, 79.3 mmol), dissolved in 150 mL of anhydrous tetrahydrofuran, was slowly added dropwise with stirring (2 hours). Following addition, the reaction was heated to reflux. After stirring for 90 minutes, 0.5 g (2.63 mmol) of cuprous (I) iodide was added. After 75 minutes 9.0 g (39.65 mmol) of 1-bromo-2,5-undecadiyne dissolved in 150 mL of anhydrous tetrahydrofuran was added. The mixture was heated at reflux for 12 h and an additional 0.25 g (1.32 mmol) of cuprous (I) iodide was added. The mixture was heated at reflux for 7 hours, cooled and quenched by addition of 400 mL of ice-water saturated with ammonium chloride. After filtration (Celite), the filtrate was extracted with 3×400 mL of ether. The ether layers were washed with 2×300 mL of saturated ammonium chloride solution, 3×200 mL of water, 250 mL of brine, dried (Na2SO4), and concentrated in vacuo to yield 6.2 g of yellow-brown oil. The residue was partially purified by crystallization (petroleum ether) at -20° C. to produce 5.75 g (75%) of an unstable yellow oil (room temperature) which was utilized immediately in the next reaction. IR (neat, cm-1) 3365, 2956, 2933, 2225; 1H NMR (CDCl3) δ 3.70 (t, J=6.2 Hz, 2H), 3.17-3.13 (m, 4H), 2.45 (dt, J=1.5, 5.9, 12.0 Hz, 2H), 2.15 (dt, J=2.1, 6.9, 13.9 Hz, 2H), 1.68 (br, 1H), 1.55-1.43 (m, 2H), 1.43-1.26 (m, 4H), 0.89 (t, J=6.9 Hz, 3H); HRMS calculated for C15H20O (M+) 216.1514, found 216.1519.

reactant | magnesium | 159 mmol, 3.86 g | [Mg] | Mg
reactant | Bromoethane | 1586 mmol, 17.3 g | BrCC | C2H5Br
reactant | 3-Butyn-1-ol | 79.3 mmol, 5.56 g | C(CC#C)O | C4H6O
reactant | 1-bromo-2,5-undecadiyne | 39.65 mmol, 9.0 g | BrCC#CCC#CCCCCC | C11H15Br
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 3,6,9-Pentadecatriyn-1-ol | 6.2 g | C(CC#CCC#CCC#CCCCCC)O | C15H20O
